US06548671B2
Quinoxaline-2-carboxylic acid [1-(3-fluoro-benzyl)-2,7-dihydroxy-4-(1H-imidazol-2-yl)-7-methyl-octyl]-amide
To a solution of acetic acid 1-{2-(3-fluoro-phenyl)-1-[(quinoxaline-2-carbonyl)-amino]-ethyl}-6-hydroxy-3-(1H-imidazol-2-yl)-6-methyl-heptyl ester (32 mg, 0.058 mmol) in methanol (1 mL) was added potassium carbonate (100 mg, 0.724 mmol). The resulting solution was stirred for 2 hours then concentrated. The crude product was dissolved in a mixture of methylene chloride and water. The organic layer was dried over sodium sulfate, filtered and concentrated. Chromatography on silica gel gave the title compound (32 mg, >100%).

reactant | acetic acid 1-{2-(3-fluoro-phenyl)-1-[(quinoxaline-2-carbonyl)-amino]-ethyl}-6-hydroxy-3-(1H-imidazol-2-yl)-6-methyl-heptyl ester | 0.058 mmol, 32 mg | FC=1C=C(C=CC1)CC(NC(=O)C1=NC2=CC=CC=C2N=C1)C(CC(CCC(C)(C)O)C=1NC=CN1)OC(C)=O | C30H34FN5O4
reactant | potassium carbonate | 0.724 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 1 mL | CO | CH4O
product | Quinoxaline-2-carboxylic acid [1-(3-fluoro-benzyl)-2,7-dihydroxy-4-(1H-imidazol-2-yl)-7-methyl-octyl]-amide | 32 mg, >100% | FC=1C=C(CC(C(CC(CCC(C)(C)O)C=2NC=CN2)O)NC(=O)C2=NC3=CC=CC=C3N=C2)C=CC1 | C28H32FN5O3
